US08431573B2
4-(Benzylamino)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile
In analogy to the preparation of Example 1, 100 mg (0.38 mmol) of 4-(methylsulphanyl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile are reacted with 407 mg (3.80 mmol) of benzylamine to give 43 mg (35% of theory) of the title compound.

reactant | 4-(methylsulphanyl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile | 0.38 mmol, 100 mg | CSC=1N=C(NC(C1C#N)=O)CC1=CSC=C1 | C11H9N3OS2
reactant | benzylamine | 3.80 mmol, 407 mg | C(C1=CC=CC=C1)N | C7H9N
product | 4-(Benzylamino)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile | C(C1=CC=CC=C1)NC=1N=C(NC(C1C#N)=O)CC1=CSC=C1 | C17H14N4OS
